US07776869B2
1-methoxy-3-methyl-2-nitro-4-(trifluoromethyl)benzene was prepared by a procedure similar to that described in “Synthesis of 3,6-Disubstituted 2-Nitrotoluenes by Methylation of Aromatic Nitro Compounds with Dimethylsulfonium Methylide”, Kitano, Masafumi, Ohashi Naohito, Synthetic Communications, 30(23), 4247-4254, 2000. To a suspension of NaH (60% by wt. in mineral oil, 362 mg, 9.04 mmol) and trimethylsulfonium iodide (1.84 g, 9.04 mmol) in DMSO (17 ml) and THF (6.7 ml) was added 4-methoxy-3-nitrobenzotrifluoride (1.00 g, 4.52 mmol) as a solution in DMSO (2.7 ml). The reaction mixture was allowed to stir at 10-20° C. for 5 hrs. The reaction mixture was quenched by addition to ice water. The aqueous layer was separated and extracted with toluene 7 times. The combined organic extracts were washed with brine, dried over MgSO4, and filtered. The solvent was removed by distillation at reduced pressure. The residue was purified by automated silica gel chromatography (100% hexanes to 98:2 hexanes:ethylacetate) to provide 1-methoxy-3-methyl-2-nitro-4-(trifluoromethyl)benzene.

reactant | NaH | 9.04 mmol, 362 mg | [H-].[Na+]
reactant | trimethylsulfonium iodide | 9.04 mmol, 1.84 g | [I-].C[S+](C)C
reactant | 4-methoxy-3-nitrobenzotrifluoride | 4.52 mmol, 1.00 g | COC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C8H6F3NO3
solvent | DMSO | 17 ml | CS(=O)C | C2H6OS
solvent | THF | 6.7 ml | C1CCOC1 | C4H8O
solvent | DMSO | 2.7 ml | CS(=O)C | C2H6OS
product | 1-methoxy-3-methyl-2-nitro-4-(trifluoromethyl)benzene | COC1=C(C(=C(C=C1)C(F)(F)F)C)[N+](=O)[O-] | C9H8F3NO3
